US07256177B2
1-Carbamoylmethyl-4-pentyl-pyrrolidine-2-carboxylic acid [2-methyl-1-(3,4,5-trihydroxy-6-methylsulfanyl-tetrahydro-pyran-2-yl)-propyl]-amide
To a stirred solution of 4-pentyl-pyrrolidine-2-carboxylic acid [2-methyl-1-(3,4,5-trihydroxy-6-methylsulfanyl-tetrahydro-pyran-2-yl)-propyl]-amide (200 mg, 0.48 mmol, 1 equiv), in anhydrous acetonitrile (3 mL), at room temperature, under nitrogen atmosphere, was added triethylamine (0.2 mL, 1.44 mmol, 3 equiv) followed by bromoacetamide (80 mg, 0.58 mmol, 1.2 equiv). The resulting mixture was stirred at room temperature for 18 h, and evaporated to dryness. The residue obtained was first purified over silica gel, with an eluant of 7% methanolic-ammonia/dichloromethane. The desired fractions were collected, evaporated to dryness, and repurified by HPLC (to remove, the side-product from the reaction of the base with bromoacetamide). After lyophilization the desired title compound for example 40 was obtained (2.0 mg) as a white fluffy powder: HPLC: Rt=4.11 min (220.0 nm); 1H NMR (300 MHz, CD3OD) δ (rotamers) 5.46 (d, J=5.5, 1), 4.47 (dd, J=3.02, 2.7, 1.1), 4.31-4.25 (m, 3.3), 4.11 (d, J=3.02, 1.6), 2.3(s, 3), 1.65-1.52(m, 9.5), 1.12-1.09 (m, 10.3. MS (ESPOS): 476.5 [M+H]+,

reactant | 4-pentyl-pyrrolidine-2-carboxylic acid [2-methyl-1-(3,4,5-trihydroxy-6-methylsulfanyl-tetrahydro-pyran-2-yl)-propyl]-amide | 0.48 mmol, 200 mg, 1 equiv | CC(C(C1OC(C(C(C1O)O)O)SC)NC(=O)C1NCC(C1)CCCCC)C | C20H38N2O5S
reactant | triethylamine | 1.44 mmol, 0.2 mL, 3 equiv | C(C)N(CC)CC | C6H15N
reactant | bromoacetamide | 0.58 mmol, 80 mg, 1.2 equiv | BrCC(=O)N | C2H4BrNO
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
product | 1-Carbamoylmethyl-4-pentyl-pyrrolidine-2-carboxylic acid [2-methyl-1-(3,4,5-trihydroxy-6-methylsulfanyl-tetrahydro-pyran-2-yl)-propyl]-amide | CC(C(C1OC(C(C(C1O)O)O)SC)NC(=O)C1N(CC(C1)CCCCC)CC(N)=O)C | C22H41N3O6S
